US07074819B2
Step 8) Synthesis of 4-[9-(N-t-butyloxycarbonylaminosulfonylamino)nonyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman
To a solution of chlorosulfonylisocyanate (25 μl, 0.292 mmol) in dichloromethane (1 ml) was added t-butanol (27 μl, 0.292 mmol) at −38° C. for 10 minutes, which was then stirred for 2.5 hours. Then, the reaction mixture was cooled down to −78° C., 4-(9-aminononyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (118 mg, 0.243 mmol) dissolved in triethylamine (50 μl, 0.364 mmol) and dichloromethane (1 ml) was slowly added thereto, and the resulting mixture was stirred overnight at room temperature. After the reaction was completed, saturated ammonium chloride solution was added to the reaction solution, and the resulting solution was extracted with ethyl acetate. The organic layer was washed with diluted hydrochloride solution, water and saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was subjected to preparative TLC (chloroform:methanol=10:1) to give the title compound (57 mg, yield 36%) as a white solid.

reactant | chlorosulfonylisocyanate | 0.292 mmol, 25 μl | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 0.292 mmol, 27 μl | C(C)(C)(C)O | C4H10O
reactant | 4-(9-aminononyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 0.243 mmol, 118 mg | NCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H43NO5
reactant | triethylamine | 0.364 mmol, 50 μl | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-[9-(N-t-butyloxycarbonylaminosulfonylamino)nonyl]-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 57 mg, yield 36% | C(C)(C)(C)OC(=O)NS(=O)(=O)NCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C34H52N2O9S
